US07320993B1
a) 2-[4-(1-phenyl-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-butyl]-isoindol-1,3-dione
20.0 g (89.5 mmol) 1-phenyl-1,2,4,5-tetrahydrobenzo[d]azepine, 25.2 g (89.5 mmol) N-(4-bromobutyl)-phthalimide and 18.5 g (134.3 mmol) potassium carbonate are stirred in 200 ml DMF for 6 hours at 60° C. The mixture is concentrated under vacuum and the residue is distributed between 300 ml acetic acid ethyl ester and 100 ml water. The watery phase is extracted with 50 ml acetic acid ethyl ester and the combined organic phases are washed with water. The organic phase is dried over sodium sulfate and evaporated under vacuum until dried: Yield 39.5 g.

reactant | 1-phenyl-1,2,4,5-tetrahydrobenzo[d]azepine | 89.5 mmol, 20.0 g | C1(=CC=CC=C1)C1CNCCC2=C1C=CC=C2 | C16H17N
reactant | N-(4-bromobutyl)-phthalimide | 89.5 mmol, 25.2 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | potassium carbonate | 134.3 mmol, 18.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-[4-(1-phenyl-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-butyl]-isoindol-1,3-dione | C1(=CC=CC=C1)C1CN(CCC2=C1C=CC=C2)CCCCN2C(C1=CC=CC=C1C2=O)=O | C28H28N2O2
